US08242130B2
A mixture of 3-bromomethyl-2-(4-hydroxyphenyl)-4H-chromen-4-one (0.52 g, 1.57 mmol), sodium methoxide (1.36 mL, 6.28 mmol, 25% in MeOH) and anhydrous MeOH (10 mL) was stirred overnight at rt. The reaction mixture was neutralized by addition of AcOH and the solvent was removed. The residue was poured into water and the solid was collected and purified by column chromatography (hexane:EtOAc 2:1) to give 155 mg of 2-(4-hydroxyphenyl)-3-(methoxymethyl)-4H-chromen-4-one (35.0%). MS (ES) m/z: 283.95 (M+1), 282.93 (M); Mp. 237-239° C.

reactant | 3-bromomethyl-2-(4-hydroxyphenyl)-4H-chromen-4-one | 1.57 mmol, 0.52 g | BrCC1=C(OC2=CC=CC=C2C1=O)C1=CC=C(C=C1)O | C16H11BrO3
reactant | sodium methoxide | 6.28 mmol, 1.36 mL | C[O-].[Na+]
reactant | MeOH | 10 mL | CO | CH4O
solvent | AcOH | CC(=O)O | C2H4O2
product | 2-(4-hydroxyphenyl)-3-(methoxymethyl)-4H-chromen-4-one | 155 mg, 35.0% | OC1=CC=C(C=C1)C=1OC2=CC=CC=C2C(C1COC)=O | C17H14O4
